US09193693B2
Step 4. 4-(4-Methoxybenzyl)-5-methylmorpholin-3-one
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of sodium hydride (3.46 g, 100.92 mmol, 2.00 equiv, 70%) in tetrahydrofuran (200 mL). This was followed by the dropwise addition of a solution of N-(4-methoxybenzyl)-2-bromo-N-(1-hydroxypropan-2-yl)acetamide (16 g, 50.47 mmol, 1.00 equiv) in tetrahydrofuran (100 mL) with stirring at 25° C. The resulting solution was stirred overnight at 25° C. in an oil bath. The reaction was then quenched by the addition of 200 g of water/ice. The resulting solution was extracted with 5×200 mL of dichloromethane and the organic layers combined. The organic layers were washed with 3×50 mL of H2O. Dried over anhydrous magnesium sulfate and concentrated under vacuum. This resulted in 11.9 g (crude) of 4-(4-methoxybenzyl)-5-methylmorpholin-3-one as yellow oil.

reactant | sodium hydride | 100.92 mmol, 3.46 g, 2.00 equiv | [H-].[Na+]
reactant | N-(4-methoxybenzyl)-2-bromo-N-(1-hydroxypropan-2-yl)acetamide | 50.47 mmol, 16 g, 1.00 equiv | COC1=CC=C(CN(C(CBr)=O)C(CO)C)C=C1 | C13H18BrNO3
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-(4-Methoxybenzyl)-5-methylmorpholin-3-one | COC1=CC=C(CN2C(COCC2C)=O)C=C1 | C13H17NO3
